US05276165
U.S. Application No. 4,731,454 describes the preparation of N-methylpyrrolidone (NMP) by hydrogenating N-methylsuccinimide on a cobalt/rhenium/molybdenum catalyst. U.S. Application No. 3,109,005 discloses a process for the preparation of NMP by hydrogenating maleic anhydride (MAA)/methylamine mixtures on a Raney nickel catalyst. At reaction times of 10 hours, NMP yields of 70% are achieved in this process. According to the process of DE-A 22 00 600, NMP is obtained in a yield of 44% under the most favorable conditions by hydrogenating MAA/methylamine mixtures on palladium supported catalysts.

reactant | N-methylsuccinimide | CN1C(CCC1=O)=O | C5H7NO2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
catalyst | cobalt rhenium molybdenum | [Co].[Re].[Mo]
catalyst | Raney nickel | [Ni] | Ni
solvent | NMP | CN1C(CCC1)=O | C5H9NO
product | MAA methylamine | yield of 44% | C1(\C=C/C(=O)O1)=O.CN | InChI=1S/C4H2O3.CH5N/c5-3-1-2-4(6)7-3;1-2/h1-2H;2H2,1H3
